US06380156B1
N-tert-Butoxycarbonyl-tyrosine (BocTyrOH).16
Tyrosine ethyl ester (5.06 g, 25 mmol) was dissolved in 25 mL of water and solid sodium hydroxide was added until litmus paper indicated a neutral pH. Diozane (50 mL) and (Boc)2O (6.12 g, 27.5 mmol) were added with cooling. The reaction was allowed to stir for 2 hours. Water and ether were added and the two layers separated. The organic layer was extracted three times with aqueous sodium hydroxide (IN). The aqueous layers were allowed to sit overnight then neutralized with aqueous HCl and extracted with ether, which was washed with brine and dried over MgSO4. A yellow oil was obtained (6.02 g, 86%); 1H NMR (200 MHz, CDCl3) δ 7.10 (2H,d), 6.84 (2H,d), 4.92-5.00 (1H,m), 4.47-4.52 (1H,m), 3.00-3.12 (2H,m), 1.43 (9H,s); EIMS 282.0.

reactant | Tyrosine ethyl ester | 25 mmol, 5.06 g | C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | (Boc)2O | 27.5 mmol, 6.12 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ether | CCOCC | C4H10O
solvent | water | 25 mL | O | H2O
product | N-tert-Butoxycarbonyl-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
